US04369321
The N,N'-dicyclohexyl-N,N'-bis(ethoxycarbonyl)-ethylenediamine (m.p. 108° C.) is prepared by reacting N,N'-dicyclohexylethylenediamine with ethyl chlorocarbonate in chloroform at 10°-20° C. in the presence of aqueous NaOH. The obtained product has a purity of 99.7% and is used directly.

reactant | N,N'-dicyclohexylethylenediamine | C1(CCCCC1)NCCNC1CCCCC1 | C14H28N2
reactant | ethyl chlorocarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | NaOH | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N,N'-dicyclohexyl-N,N'-bis(ethoxycarbonyl)-ethylenediamine | C1(CCCCC1)N(CCN(C(=O)OCC)C1CCCCC1)C(=O)OCC | C20H36N2O4
